US07595327B2
According to the procedure of Example 47, Step 6, using (1S,5R)-6-{[4-(benzyloxy)phenyl]sulfonyl}-1-methyl-6-azabicyclo[3.2.0]heptan-7-one (354 mg, 0.954 mmol) and catalytic 10% Pd/C, with ethyl acetate added to aid solubility, (1S,5R)-6-[(4-hydroxyphenyl)sulfonyl]-1-methyl-6-azabicyclo[3.2.0]heptan-7-one was obtained (291 mg, 100%) as a colorless oil. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.24-1.35 (m, 4H) 1.46-1.56 (m, 1H) 1.75 (dt, J=12.32, 6.09 Hz, 1H) 2.02 (dd, J=12.63, 5.56 Hz, 1H) 2.07-2.16 (m, 1H) 4.09 (d, J=4.04 Hz, 1H) 6.93 (s, 1H) 6.97 (d, J=8.84 Hz, 2H) 7.81 (d, J=8.84 Hz, 2H).

reactant | (1S,5R)-6-{[4-(benzyloxy)phenyl]sulfonyl}-1-methyl-6-azabicyclo[3.2.0]heptan-7-one | 0.954 mmol, 354 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N1[C@@H]2CCC[C@@]2(C1=O)C | C20H21NO4S
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S,5R)-6-[(4-hydroxyphenyl)sulfonyl]-1-methyl-6-azabicyclo[3.2.0]heptan-7-one | OC1=CC=C(C=C1)S(=O)(=O)N1[C@@H]2CCC[C@@]2(C1=O)C | C13H15NO4S
